Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Adhesive Tape
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman with a history of diastolic CHF, Afib, COPD 
and dementia who presents with SOB. Per  patient, she woke up 
this morning feeling SOB. Pt also reports waking up in the 
middle of the night feeling short of breath. The episode of 
dyspnea resolved spontaneously after she sat on the side of her 
bed for several minutes. Pt was able to fall asleep again after 
about an hour. She denies orthopnea and reports being 
comfortably on a flat bed with two pillow for her head. She 
denies any chest pain or palpitations.
Pt woke up this morning feeling short of breath with no 
alleviation or exacerbation. Pt's gentleman friend ___, called 
EMT services. 
Pt reports having a persistent productive cough for several 
days. The sputum is yellow with no blood. Pt reports that the 
edema in left ankle is more severe than her baseline. 

Of note pt was discharged on ___ after being admitted for 
weakness and mild cough. Her symptoms were thought to be 
secondary to an exacerbation of COPD. Pt was treated with 
azithromycin and discharged with a prescription for fluticasone. 


Pt denies any fevers, chills, dizziness, headaches and changes 
in vision. She also denies nausea,vomiting, diarrhea, dysuria or 
hematuria.

In the ED pt's vitals were 98.2 66 116/61 18 96RA. Per EMTs she 
had a She appeared confused and was complaining of dizziness. A 
CT scan was negative for subdural hematoma. CXR showed possible 
infiltrate in RML. Her BNP was elevated at 1092. Cardiac enzymes 
were below assay. U/A was negative. Blood and urine cultures are 
pending. Pt received 750mg IV levaquin x1 and 1g vancomycin x1. 

On the floor she denies having any SOB, chest pain, 
palpitations. 

 
Past Medical History:
COPD
HTN
PAF
Hyperlipidemia
Dementia
h/o EtOH abuse
___ 
 
Social History:
___
Family History:
Diabetes and CAD in her parents.  

 
Physical Exam:
ON ADMISSION:

Vitals 97 135/87 106 18 98 RA
HEENT: PERRLA, EOMI,oropharynx clear
Neck: JVP not elevated, no LAD
CV: irregularly irregular, nl s1 s2, no m/r/g
RESP: CTAB, faint crackles in left lung base, no wheezes or 
rhonchi. No dullness to percussion. Good diaphragmatic 
excursion.
ABD: soft, NTND,+BS, no organomegaly
Extremities: 1+ edema in lower extremities,WWP, 2+ DP pulses
Neuro: Alert and oriented x3. MMS score of 29
 
Pertinent Results:
HEAD CT:
There is no evidence of hemorrhage, midline shift, mass effect, 
or 
acute infarction. The gray-white matter differentiation is 
preserved. The 
ventricles and sulci are stably prominent, compatible with 
age-related 
involutional changes. There is periventricular hypodensity, 
compatible with chronic small vessel ischemic changes. Bilateral 
basal ganglia calcifications are again seen. The visualized 
portions of the paranasal sinuses and mastoid air cells are well 
aerated. There are atherosclerotic calcifications within the 
cavernous portions of bilateral internal carotid arteries, and 
in the vertebral arteries. 
  
IMPRESSION: No acute intracranial hemorrhage. . Stable 
appearance since 
___. 
  
CXR:
The lungs are clear with no signs of congestive heart failure or 

pneumonia. No pleural effusions or pneumothorax is identified. 
The 
visualized cardiomediastinal silhouette is stable in appearance 
demonstrating marked cardiomegaly and left atrial enlargement. 
There is tortuosity of the thoracic aorta. Note is made of 
multilevel degenerative changes of the thoracolumbar spine. 
  
IMPRESSION: Stable marked cardiomegaly without evidence of 
congestive heart failure. 

PERTINENT LABS:
BNP: 1082 (baseline 1800's)

 
Brief Hospital Course:
___ year old woman with a history of diastolic CHF, Afib, COPD 
and dementia presenting with shortness of breath.
.
SOB: Resolved by time of arrival to floor.  No evidence of chf 
or pneumonia either clinically or radiographically.  Pt. did 
have one episode of relative bradycardia on telemetry (___) but 
was asymptomatic and bp was stable throughout this.  Toprol XL 
dose reduced to 25 mg daily.

Discussed case with son and recommended that pt. live in a 
nursing home as she has been to hospital over 10 times this 
year.

Pt. discharged home with ___ services.  At time of discharge was 
at baseline, fully alert and oriented, ambulatory, afebrile, 
VSS, tolerating regular diet, without complaints.
 
Medications on Admission:
Per recent d/c summary, patient unclear with what she is taking
simvastatin 10mg po daily
furosemide 20mg daily
aspirin 325mg daily
toprol XL 50mg daily
fluticasone 110mcg/actuation aerosol inhaler 2 puffs bid
albuterol inhaler once daily
 
Discharge Medications:
1. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
4. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*0*
5. Furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Shortness of breath.

 
Discharge Condition:
AF and VSS, ambulatory, no complaints. 

 
Discharge Instructions:
Resume your medications and take as prescribed.  We made only 
one change in that we reduced the dose of your beta blocker 
(toprol XL) down to 25 mg daily. 

Return to the ___ Emergency room for shortness of breath, 
cough, chest pain.
 
Followup Instructions:
___